US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-9-oxo-9H-fluorene-4-carboxamide
To a solution of 9-oxo-9H-fluorene-4-carboxylic acid (144 mg, 0.64 mmol) in tetrahydrofuran (5 ml) were added oxalyl chloride (0.11 ml, 1.72 mmol) and N,N-dimethylformamide (0.01 ml), and the mixture was stirred at room temperature for 30 min. The reaction solution was evaporated under reduced pressure. To a solution of the residue in ethyl acetate (5 ml) were added (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (150 mg, 0.43 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) and recrystallized from ethyl acetate-hexane to give the title compound (154 mg, 69%).

reactant | 9-oxo-9H-fluorene-4-carboxylic acid | 0.64 mmol, 144 mg | O=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C14H8O3
reactant | oxalyl chloride | 1.72 mmol, 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.43 mmol, 150 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-9-oxo-9H-fluorene-4-carboxamide | 154 mg, 69% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=CC=2C(C3=CC=CC=C3C12)=O)O | C30H21F4NO3
